2152-07-02 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**7-1**]
   - received NS boluses 250 cc x 2
   - decreased pacing to 60, but hypotensive to 70's-80's even after fluid
   boluses, increased rate again to 80
   Allergies:
   Penicillins
   Unknown;
   Hydrochlorothiazide
   Unknown;
   Propranolol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Patient denies chest pain. C/o some SOB and nausea
   now. Feels fatigued and anxious.
   Flowsheet Data as of  [**2152-7-2**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 80 (54 - 84) bpm
   BP: 104/50(62) {71/45(54) - 196/121(142)} mmHg
   RR: 19 (18 - 24) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 62 Inch
             Total In:
                                                                    250 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                    250 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    310 mL
   Urine:
                                                                    520 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  4L
   SpO2: 99%
   Physical Examination
   GENERAL: elderly female in NAD, oriented to self and hospital
   HEENT: NCAT. Sclera anicteric. PERRL
   NECK: Supple with JVD [**6-5**].
   CARDIAC: RR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   212 K/uL
   10.4 g/dL
   103 mg/dL
   2.0 mg/dL
   20 mEq/L
   5.3 mEq/L
   49 mg/dL
   116 mEq/L
   144 mEq/L
   32.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2152-7-2**]  05:27 AM
   WBC
   8.6
   Hct
   32.4
   Plt
   212
   Cr
   2.0
   Glucose
   103
   Other labs: PT / PTT / INR:11.9/26.6/1.0, CK / CKMB / Troponin-T:78//,
   Differential-Neuts:70.9 %, Lymph:22.1 %, Mono:5.5 %, Eos:1.3 %,
   Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   79F with h/o DM, HTN, hyperlipidemia, bipolar d/o on lithium,
   hypothyroidism, presents with symptomatic bradycardia with hypotension
   s/p temp pacer wire placement.
   .
   # Symptomatic bradycardia/RHYTHM: Patient here with symptomatic
   bradycardia; temporary pacing wire placed, transferred with setting of
   HR 80. Etiology still unknown, but could include medication induced SA
   or AV dysfunction with lithium toxicity or extra beta blocker (unclear
   if in setting of decreased drug clearance if patient's Cr is up from
   baseline), myxedema coma with history of hypothyroidism, sick sinus
   syndrome [**1-31**] age, etc.
   - temporary pacing wire in pacing at 70 currently
   - EP following, appreciate recs
   - can decrease HR to 50 if stable to allow for native sinus rhythm to
   reappear.
   - pacing pads in place, prefer isoproteronol if pacemaker fails.
   - can restart lithium as likely a chronic problem
   - holding metoprolol, clonazepam
   - TSH WNL
   - Daily CXRs for pacer placement.
   .
   # CORONARIES: No known history of CAD. 1st set of enzymes negative,
   original EKG w/o changes.
   - continue ASA, holding metoprolol
   .
   # PUMP: Patient hypo to euvolemic. No known CHF history
   - monitor I/Os
   - daily weights
   .
   # Chronic renal insufficiency: Cr 2, unclear baseline.  Hyperkalemic.
   - call PCP/residence in AM
   - check urine lytes.
   .
   # Altered mental status: delirium on top of baseline dementia. Agitated
   at times.
   - giving zyprexa SL 2.5mg TID prn (increased from QHS)
   - holding clonazepam
   - reorientation, try to maintain sleep wake cycle
   .
   # Extrapyramidal syndrome:
   - continue home dose of carbidopa/levodopa
   .
   # Hypothyroidism:
   - continue home dose of levothyroxine
   - TSH WNL
   .
   # DM
   - HISS
   .
   # Hyperlipidemia
   - continue home dose of atorvastatin
   .
   # GERD
   - on omeprazole, Zofran prn.
   #
   .
   FEN: NPO
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC heparin
   -Pain management with tylenol prn
   -Bowel regimen with colace, senna
   .
   CODE: Full code, confirmed with HCP
   .
   COMM:[**Last Name (NamePattern4) 4718**] [**Name (NI) 1107**] [**Name (NI) 8579**] (HCP) [**Telephone/Fax (1) 8580**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  HISS fingerstics
   Lines:
   18 Gauge - [**2152-7-1**] 06:04 PM
   20 Gauge - [**2152-7-1**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   sinus node dysfunction - likely due to long standing lithium, beta
   blocker and aging
   temporary wire placed
   mild renal insufficiency
   Temporary pacemaker is capturing with good threshold
   plan for permanent pacemaker on [**2152-7-3**]
   mildly demented/deliriuos - will need to obtain consent from health
   care proxy
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**]
   on:[**2152-7-2**] 10:51 ------

2152-07-03 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: None
   24 Hour Events:
   - spoke to PCP coverage, Cr in [**11-5**] was 1.9 and pt has atrophic
   kidneys on U/S. Also has distant EtOH and carotid dz.
   - patient reverted to sinus rhythm at 15:30.
   - pt very delirious after 5pm. Given 50mg seroquel and 2.5mg zyprexa
   w/o any improvement.  Then given IV haldol x 3mg.  Patient increasingly
   tremulous and agitated.
   Allergies:
   Penicillins
   Unknown;
   Hydrochlorothiazide
   Unknown;
   Propranolol
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2152-7-3**] 12:13 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2152-7-3**] 01:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-7-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (56 - 92) bpm
   BP: 126/66(81) {85/33(59) - 168/104(137)} mmHg
   RR: 19 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 84 kg
   Height: 62 Inch
             Total In:
                                                                  1,476 mL
                                                                    544 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    756 mL
                                                                    544 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    420 mL
   Urine:
                                                                  1,070 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    406 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Room Air
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   GENERAL: elderly female in NAD, oriented to self and hospital, in
   posey/wrist restraints
   HEENT: NCAT. Sclera anicteric. PERRL
   NECK: Supple with JVD [**6-5**].
   CARDIAC: RR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   179 K/uL
   9.9 g/dL
   98 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.3 mEq/L
   43 mg/dL
   117 mEq/L
   144 mEq/L
   31.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2152-7-2**]  05:27 AM
                             [**2152-7-2**]  12:36 PM
                             [**2152-7-3**]  05:40 AM
   WBC
   8.6
   7.2
   Hct
   32.4
   31.0
   Plt
   212
   179
   Cr
   2.0
   2.3
   2.0
   TropT
   0.02
   Glucose
   103
   156
   98
   Other labs: PT / PTT / INR:12.4/47.2/1.0, CK / CKMB /
   Troponin-T:78//0.02, Differential-Neuts:70.9 %, Lymph:22.1 %, Mono:5.5
   %, Eos:1.3 %, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   79F with h/o DM, HTN, hyperlipidemia, bipolar d/o on lithium,
   hypothyroidism, presents with symptomatic bradycardia with hypotension
   s/p temp pacer wire placement.
   .
   # Symptomatic bradycardia/RHYTHM: Patient here with symptomatic
   bradycardia; temporary pacing wire placed, transferred with setting of
   HR 80. Etiology still unknown, but could include medication induced SA
   or AV dysfunction with lithium toxicity or extra beta blocker (unclear
   if in setting of decreased drug clearance if patient's Cr is up from
   baseline), myxedema coma with history of hypothyroidism, sick sinus
   syndrome [**1-31**] age, etc.
   - temporary pacing wire in pacing at 56 currently, NSR has reappeared
   going for PPM today with EP
   - EP following, appreciate recs
   - pacing pads in place, prefer isoproteronol if pacemaker fails.
   - can restart lithium as likely a chronic problem
   - holding metoprolol, clonazepam
   - TSH WNL
   - CSR s/p PPM today
   .
   # CORONARIES: No known history of CAD. 1st set of enzymes negative,
   original EKG w/o changes.
   - continue ASA, holding metoprolol but may restart tonight
   .
   # PUMP: Patient hypo to euvolemic. No known CHF history
   - monitor I/Os
   - daily weights
   .
   # Chronic renal insufficiency: Cr 2, baseline per PCP
[**Name Initial (PRE) **] office is 1.9
   ([**11-6**]).
   - FeNa 10% suggestive of ATN, possibly [**1-31**] hypotension
   .
   # Altered mental status: delirium on top of baseline dementia. Agitated
   at times, especially after 5pm
   - given Zyprexa SL 2.5mg TID prn (increased from QHS) + Seroquel 50 mg
 0.5mg Haldol X3 yesterday
   - Restarting home clonazepam; Haldol PRN for tonight
   - Will recheck EKG for QT prolongation on haldol
   - Reorientation, try to maintain sleep wake cycle; enforce quiet
   environment tonight w/ 1:1 sitter; avoid restraints
   .
   # UTI: Slightly positive UA over the weekend. Will f/u urine cx to
   determine need for continued IV Abx
   .
   # Extrapyramidal syndrome:
   - continue home dose of carbidopa/levodopa
   .
   # Hypothyroidism:
   - continue home dose of levothyroxine
   - TSH WNL
   .
   # DM
   - HISS
   .
   # Hyperlipidemia
   - continue home dose of atorvastatin
   .
   # GERD
   - on omeprazole, Zofran prn.
   .
 BRADYCARDIA
 ALTERED MENTAL STATUS (Dementia + Delirium)
   ICU Care
   Nutrition: NPO after MN for permanent pacemaker placement today
   Glycemic Control:
   Lines: Peripheral IVs
   18 Gauge - [**2152-7-1**] 06:04 PM
   20 Gauge - [**2152-7-1**] 06:05 PM
   Prophylaxis:
   DVT: Heparin SC
   Pain: Tylenol PRN
   Bowel: Colace, senna
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Sister [**Name (NI) 1107**] [**Name (NI) 8579**] (HCP) [**Telephone/Fax (1) 8580**]
   Code status: Full code confirmed with HCP
   Disposition: CCU for now ; will call out to floor s/p PPM placement
   today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   sinus rhthm most of the night
   no longer v pacing
   will proceed with implantation of a permanent pacemaker and transfer to
   the cardiology floor
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**]
   on:[**2152-7-3**] 17:41 ------